US07704996B2
To a suspension of benzaldehyde (9.4 mmol) in H2O (6 mL) are added sodium hydrogensulfate (9.4 mmol) and pyrrolidine (9.4 mmol). After stirring at room temperature for 0.5 h, to the suspension is added sodium cyanide (9.4 mmol), and the resulting mixture is stirred at room temperature for 15 h. The reaction mixture is diluted with sat. aq. NaHCO3, then extracted with AcOEt. The organic extracts are washed with water (×2) and brine, dried over Na2SO4, filtered, and concentrated in vacuo to give phenylpyrrolidin-1-ylacetonitrile, which is directly used for the next reaction without further purification.

reactant | benzaldehyde | 9.4 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium hydrogensulfate | 9.4 mmol | S(=O)(=O)(O)[O-].[Na+]
reactant | pyrrolidine | 9.4 mmol | N1CCCC1 | C4H9N
reactant | sodium cyanide | 9.4 mmol | [C-]#N.[Na+]
solvent | H2O | 6 mL | O | H2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | phenylpyrrolidin-1-ylacetonitrile | C1(=CC=CC=C1)C(C#N)N1CCCC1 | C12H14N2
